US05750525
1.67 g (5 mmol) of 1-[(2-nitro-4-trifluoromethyl-5-chloro-phenyl)amino]ethanephosphonic acid (according to example 8, A) is stirred together with 1.70 g of imidazole for 4 hours at 160° C. bath temperature. It is taken up in 100 ml of water and stirred twice with ion exchanger IR 120 (strong acid form, Amberlite, 20-50 mesh) and suctioned off. Then, it is evaporated to dryness in a rotary evaporator and the residue is heated with 24 ml of orthoformic acid triethyl ester and 156 mg (0.82 mmol) of p-toluene sulfonic acid for 10 hours to 150° C. bath temperature. After evaporation to dryness in a rotary evaporator, it is chromatographed on silica gel with methylene chloride:ethanol=10:1. 222 mg (17% of theory) of 1-[(2-nitro-4-trifluoromethyl-5-imidazolylphenyl)amino]ethanephosphonic acid diethyl ester is obtained.

reactant | 1-[(2-nitro-4-trifluoromethyl-5-chloro-phenyl)amino]ethanephosphonic acid | 5 mmol, 1.67 g | [N+](=O)([O-])C1=C(C=C(C(=C1)C(F)(F)F)Cl)NC(C)P(O)(=O)O | C9H9ClF3N2O5P
reactant | imidazole | 1.70 g | N1C=NC=C1 | C3H4N2
reactant | orthoformic acid triethyl ester | 24 ml | C(C)OC(OCC)OCC | C7H16O3
reactant | p-toluene sulfonic acid | 0.82 mmol, 156 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | 100 ml | O | H2O
product | 1-[(2-nitro-4-trifluoromethyl-5-imidazolylphenyl)amino]ethanephosphonic acid diethyl ester | 222 mg, 17% | C(C)OP(OCC)(=O)C(C)NC1=C(C=C(C(=C1)C=1NC=CN1)C(F)(F)F)[N+](=O)[O-] | C16H20F3N4O5P
